US08486940B2
5-(4-(1,1,2,2-tetrafluoroethoxy)phenyl)-1-(1H-benzo[d]imidazol-5-yl)imidazolidin-2-one
The compound was synthesized starting from 5-aminobenzimidazole (0.585 g, 4.4 mmol), 4-(1,1,2,2-tetrafluoroethoxy)benzaldehyde (0.888 g, 4 mmol), TMSCN (0.5 mL, 4 mmol), PdC (10%, 0.02 g), TEA (0.978 mL, 7.0 mmol), di-(imidazol-1-yl)methanone (0.621 g, 3.83 mmol) as described in method 2. The product was purified by means of FPLC.

reactant | 5-aminobenzimidazole | 4.4 mmol, 0.585 g | NC1=CC2=C(N=CN2)C=C1 | C7H7N3
reactant | 4-(1,1,2,2-tetrafluoroethoxy)benzaldehyde | 4 mmol, 0.888 g | FC(C(F)F)(OC1=CC=C(C=O)C=C1)F | C9H6F4O2
reactant | TMSCN | 4 mmol, 0.5 mL | [Si](C)(C)(C)C#N | C4H9NSi
reactant | di-(imidazol-1-yl)methanone | 3.83 mmol, 0.621 g | N1(C=NC=C1)C(=O)N1C=NC=C1 | C7H6N4O
product | 5-(4-(1,1,2,2-tetrafluoroethoxy)phenyl)-1-(1H-benzo[d]imidazol-5-yl)imidazolidin-2-one | FC(C(F)F)(OC1=CC=C(C=C1)C1CNC(N1C1=CC2=C(NC=N2)C=C1)=O)F | C18H14F4N4O2
